US04162246
Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]1,10-decanedicarboxylate (Compound No. 199)
A mixture of 4.4 g of 3-(2,3-epoxypropyl)-7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 1.6 g of 1,10-decanedicarboxylic acid was heated at 180° C. for 3 hours. After completion of the reaction, the reaction mixture was dissolved in ethyl acetate, treated with an aqueous alkaline solution and purified by column chromatography through silica gel eluted first with ethyl acetate, then with a 2:1 by volume mixture of ethyl acetate and methanol. The desired compound was obtained in the form of a white powder, melting point 53°-57° C.

reactant | 3-(2,3-epoxypropyl)-7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 4.4 g | O1C(CN2C(NC3(C2=O)CC(N(C(C3)(C)C)C)(C)C)=O)C1 | C15H25N3O3
reactant | 1,10-decanedicarboxylic acid | 1.6 g | C(CCCCCCCCCC(=O)O)C(=O)O | C12H22O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]1,10-decanedicarboxylate | OC(COC(=O)CCCCCCCCCCC(=O)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C42H72N6O10
